US05464830
Methyl 2-(2-thienylmethoxy)acetate (19)
To a stirring 25 mL solution of 1.14 g (10 mmol) of thiophenemethanol in THF was added 0.24 g (10 mmol) of NaH. After the evolution of gas had ceased, 1.53 g (10 mmol) of methyl bromoacetate was added to the reaction. After 15 minutes, the reaction mixture was filtered. The solvent was removed under reduced pressure. The residue was then dissolved in 50 mL of EtOAc. The organic layer was washed with 3×50 mL of H2O, and was treated in the manner described above in Example 7. The residue was chromatographed to yield 0.91 g (49%) of product. Analysis calculated for C8H10O3S (M.W. 186.23): C, 51.60; H, 5.41. Found: C, 51.41; H, 5.60.

reactant | thiophenemethanol | 10 mmol, 1.14 g | S1C(=CC=C1)CO | C5H6OS
reactant | NaH | 10 mmol, 0.24 g | [H-].[Na+]
reactant | methyl bromoacetate | 10 mmol, 1.53 g | BrCC(=O)OC | C3H5BrO2
solvent | THF | C1CCOC1 | C4H8O
product | Methyl 2-(2-thienylmethoxy)acetate | 0.91 g, 49% | S1C(=CC=C1)COCC(=O)OC | C8H10O3S
